US06403639B1
Under argon atmosphere, 0.78 g of 5-acetoxy-2-hydroxy-4,6-diisopropylbenzaldehyde was dissolved in 2 ml of anhydrous tetrahydrofuran and a solution of 0.40 g of oily sodium hydride in 1 ml of anhydrous tetrahydrofuran was added. After additional 5 ml of anhydrous tetrahydrofuran was added, the solution was stirred at room temperature for 30 minutes. Then, 5 ml of a Grignard reagent (1.48M in tetrahydrofuran) prepared from magnesium and 3-bromopentane was added dropwise to this reaction solution and the mixture was stirred at room temperature for 2 hours. Then, the mixture was combined with water and 1M hydrochloric acid and extracted with ethyl acetate. The organic layers were washed with saturated brine, then dried over anhydrous magnesium sulfate, and then concentrated. The concentrate as purified by silica gel column chromatography (in n-hexane containing 10% ethyl acetate) to give 0.51 g of 4-acetoxy-2-(2-ethyl-1-hydroxybutyl)-3,5-diisopropylphenol as a white amorphous material (yield 51%).

reactant | 5-acetoxy-2-hydroxy-4,6-diisopropylbenzaldehyde | 0.78 g | C(C)(=O)OC=1C(=CC(=C(C=O)C1C(C)C)O)C(C)C | C15H20O4
reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | magnesium | [Mg] | Mg
reactant | 3-bromopentane | BrC(CC)CC | C5H11Br
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-acetoxy-2-(2-ethyl-1-hydroxybutyl)-3,5-diisopropylphenol | 0.51 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)C)O)C(C(CC)CC)O)C(C)C | C20H32O4
